* C:\Users\Gagan\Desktop\summer term\Drone-charging-WPT-Sims\rectifier.asc
* Generated by LTspice 24.1.9 for Windows.
D1 N003 0 1N4148
D4 0 N007 1N4148
D3 N002 N007 1N4148
D2 N003 N002 1N4148
R2 N007 N003 10
C2 N007 N003 47µ
V2 N002 0 SINE(0 10 1Meg)
V1 N001 N004 SINE(0 20 5Meg)
D5 0 N004 1N5819
D6 N001 N005 1N5819
D7 0 N001 1N5819
D8 N004 N005 1N5819
L1 N005 N006 500nH
C1 N006 0 47µ
R1 N006 0 6
.model D D
.lib C:\Users\Gagan\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 200u
.backanno
.end
